US09290514B2
Step 6. 8-(3,5-Dimethylisoxazol-4-yl)-6-fluoro-3-pyridin-3-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine
To a solution of 8-(3,5-dimethylisoxazol-4-yl)-6-fluoro-3-pyridin-3-yl-2H-1,4-benzoxazin-5-amine (40 mg, 0.1 mmol) in ethanol (0.8 mL) and water (0.2 mL), sodium tetrahydroborate (4.5 mg, 0.12 mmol) was added and the mixture was heated at 90° C. for 15 minutes. Sodium tetrahydroborate (4.5 mg, 0.12 mmol) was added and the mixture was heated to 90° C. for 15 minutes again. The mixture was evaporated and extracted with ethyl acetate. The organic extracts were evaporated. Purification by preparative LCMS (pH 10) gave the desired compound 11 mg, 30%. 1H NMR (300 MHz, DMSO-d6) δ 8.62 (s, 1H), 8.50 (m, 1H), 7.80 (m, 1H), 7.40 (m, 1H), 6.35 (m, 1H), 5.61 (s, 1H), 4.78 (s, 2H), 4.60 (m, 1H), 4.20 (m, 1H), 3.98 (m, 1H), 2.20 (s, 3H), 2.01 (s, 3H). LCMS calculated for C18H18FN4O2 (M+H)+: m/z=341.1. found: 340.9.

reactant | 8-(3,5-dimethylisoxazol-4-yl)-6-fluoro-3-pyridin-3-yl-2H-1,4-benzoxazin-5-amine | 0.1 mmol, 40 mg | CC1=NOC(=C1C=1C=C(C(=C2N=C(COC21)C=2C=NC=CC2)N)F)C | C18H15FN4O2
reactant | sodium tetrahydroborate | 0.12 mmol, 4.5 mg | [BH4-].[Na+]
reactant | Sodium tetrahydroborate | 0.12 mmol, 4.5 mg | [BH4-].[Na+]
solvent | ethanol | 0.8 mL | C(C)O | C2H6O
solvent | water | 0.2 mL | O | H2O
product | 8-(3,5-Dimethylisoxazol-4-yl)-6-fluoro-3-pyridin-3-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine | 11 mg, 30% | CC1=NOC(=C1C=1C=C(C(=C2NC(COC21)C=2C=NC=CC2)N)F)C | C18H17FN4O2
